US08030302B2
5-(2-Fluoro-4-nitrophenoxy)-6-(pyridine-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole
A mixture of 6-bromo-5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (5.0 g, 11.5 mmol), 4-pyridineboronic acid (3.0 g, 24.3 mmol), PdCl2(dppf) (1.8 g, 2.25 mmol) and CsF (5.0 g, 33.0 mmol) in 1,4-dioxane (100 mL) is stirred at 110° C. overnight. Then, aqueous NH4Cl and EtOAc are added. The organic phase is separated, dried over anhydrous MgSO4 and concentrated. The residue is purified by silica gel column chromatography eluting with PE:EtOAc (3:1) to give the desired product (2.8 g, 56% yield). MS (m/z): 435.1 (M+H).

reactant | 6-bromo-5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 11.5 mmol, 5.0 g | BrC1=C(C=C2C=NN(C2=C1)C1OCCCC1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C18H15BrFN3O4
reactant | 4-pyridineboronic acid | 24.3 mmol, 3.0 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | CsF | 33.0 mmol, 5.0 g | [F-].[Cs+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 2.25 mmol, 1.8 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(2-Fluoro-4-nitrophenoxy)-6-(pyridine-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 2.8 g, 56% yield | FC1=C(OC=2C=C3C=NN(C3=CC2C2=CC=NC=C2)C2OCCCC2)C=CC(=C1)[N+](=O)[O-] | C23H19FN4O4
